US05639770
A reaction was conducted in the same manner as in Example 1, by using 5-ethoxycarbonyl-2-(α-bromoacetyl)imidazole and 3,4-diethoxythiobenzamide. Then, hydrolysis was conducted in the same manner as in Example 2 to obtain 2-(3,4-diethoxyphenyl)-4-(5-carboxy-2-imidazolyl)thiazole.

reactant | 5-ethoxycarbonyl-2-(α-bromoacetyl)imidazole | C(C)OC(=O)C1=CN=C(N1)C(CBr)=O | C8H9BrN2O3
reactant | 3,4-diethoxythiobenzamide | C(C)OC=1C=C(C(=S)N)C=CC1OCC | C11H15NO2S
product | 2-(3,4-diethoxyphenyl)-4-(5-carboxy-2-imidazolyl)thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C=1NC(=CN1)C(=O)O | C17H17N3O4S
